US09315458B2
D) methyl 5-bromo-4-ethyl-2-hydroxybenzoate
To a solution of methyl 4-ethyl-2-hydroxybenzoate (1.43 g) in acetic acid (15.0 mL) was added bromine (1.40 g) under ice-cooling, and the mixture was stirred at room temperature for 2 hr under argon atmosphere. To the reaction mixture was added water, the resulting solid was collected by filtration, and dried under reduced pressure to give the title compound (2.21 g) as a mixture with methyl 3,5-dibromo-4-ethyl-2-hydroxybenzoate (2:1). This compound was used in the next step without an additional purification.

reactant | methyl 4-ethyl-2-hydroxybenzoate | 1.43 g | C(C)C1=CC(=C(C(=O)OC)C=C1)O | C10H12O3
reactant | bromine | 1.40 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 15.0 mL | C(C)(=O)O | C2H4O2
product | methyl 5-bromo-4-ethyl-2-hydroxybenzoate | 2.21 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)CC | C10H11BrO3
